US04616014
5-Methyl-3-(4-methylsemicarbazido)-6-phenyl-1,2,4-triazine (3.8 g) was reacted with sodium borohydride (1.5 g) in methanol. The precipitates in the reaction mixture were collected by filtration, washed with water and with methanol, and then dissolved in dimethyl sulfoxide. To the solution was added water. The resultant precipitates were collected by filtration, washed with water and ethanol, and then dried to give pale yellow powder of 5-methyl-3-(4-methylsemicarbazido)-6-phenyl-2,5-dihydro-1,2,4-triazine (2.48 g), mp 214° C. (decomp.).

reactant | 5-Methyl-3-(4-methylsemicarbazido)-6-phenyl-1,2,4-triazine | 3.8 g | CC=1N=C(N=NC1C1=CC=CC=C1)NNC(=O)NC | C12H14N6O
reactant | sodium borohydride | 1.5 g | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | 5-methyl-3-(4-methylsemicarbazido)-6-phenyl-2,5-dihydro-1,2,4-triazine | 2.48 g | CC1N=C(NN=C1C1=CC=CC=C1)NNC(=O)NC | C12H16N6O
